US05541307
2',3'-Dideoxy-3'-C-styryladenosine underwent standard Mitsunobu reaction with N-hydroxyphthalimide to provide 2',3'-dideoxy-5'-O-phthalimido-3'-C-styryladenosine in 76% yield with a melting point of 145°-147° C. Anal.: C26H22N6O4.1/4 H2O Calcd.: C% 64.12; H% 4.65; N% 17.25; Found: C% 63.96; H% 4.58; N% 17.51.

reactant | 2',3'-Dideoxy-3'-C-styryladenosine | C(=CC1=CC=CC=C1)[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(N)=NC=NC12 | C18H19N5O2
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | 2',3'-dideoxy-5'-O-phthalimido-3'-C-styryladenosine | 76% yield | C1(C=2C(C(N1OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=3C(N)=NC=NC13)C=CC1=CC=CC=C1)=O)=CC=CC2)=O | C26H22N6O4
